US06388088B1
A solution of triphenylphosphine (1.45 g, 5.54 mmol) in methylene chloride (15 mL) was cooled to 0° C. and then treated with N-bromosuccinimide (986 mg, 5.54 mmol). The reaction mixture was stirred at 0° C. for 30 min and then treated with a solution of (E)-2-[3-chloro-4-(5-methyl-tetrazol-1-yl)-phenyl]-3-cycloheptyl-acrylic acid (1.00 g, 2.77 mmol) in methylene chloride (5 mL). The reaction mixture was stirred for 15 min at 0° C. and then allowed to warm to 25° C. where it was stirred for 1.5 h. The reaction mixture was then treated with 2-aminothiazole (832 g, 8.32 mmol), and the resulting suspension was stirred for 3 d at 25° C. The reaction mixture was then concentrated in vacuo to remove methylene chloride, and the residue was diluted with ethyl acetate (50 mL) and water (50 mL). The two layers were separated, and the aqueous layer was extracted with ethyl acetate (1×50 mL). The combined organic extracts were successively washed with a saturated aqueous sodium bicarbonate solution (1×100 mL) and a saturated aqueous sodium chloride solution (1×100 mL), dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 40M, Silica, 1/1 hexanes/ethyl acetate) afforded (E)-2-[3-chloro-4-(5-methyl-tetrazol-1-yl)-phenyl]-3-cycloheptyl-N-thiazol-2-yl-acrylamide (810 mg, 66%) as an amorphous white solid: EI-HRMS m/e calcd for C21H23ClN6OS (M+) 442.1343, found 442.1343.

reactant | triphenylphosphine | 5.54 mmol, 1.45 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 5.54 mmol, 986 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | (E)-2-[3-chloro-4-(5-methyl-tetrazol-1-yl)-phenyl]-3-cycloheptyl-acrylic acid | 2.77 mmol, 1.00 g | ClC=1C=C(C=CC1N1N=NN=C1C)/C(/C(=O)O)=C\C1CCCCCC1 | C18H21ClN4O2
reactant | 2-aminothiazole | 8.32 mmol, 832 g | NC=1SC=CN1 | C3H4N2S
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | (E)-2-[3-chloro-4-(5-methyl-tetrazol-1-yl)-phenyl]-3-cycloheptyl-N-thiazol-2-yl-acrylamide | 810 mg, 66% | ClC=1C=C(C=CC1N1N=NN=C1C)/C(/C(=O)NC=1SC=CN1)=C\C1CCCCCC1 | C21H23ClN6OS
